US03932318
The procedure of Example 82 was repeated using a mixture of 140 ml. chloral, 7 ml. p-chlorophenyl isocyanate, 2ml. hexyl isocyanate and 6.0 ml. of 1 molar solution of triphenylphosphine in benzene. A tough, clear sheet of chloral/p-chlorophenyl isocyanate/hexyl isocyanate terpolymer was obtained.

reactant | chloral | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | p-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | hexyl isocyanate | C(CCCCC)N=C=O | C7H13NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | chloral p-chlorophenyl isocyanate hexyl isocyanate | O=CC(Cl)(Cl)Cl.ClC1=CC=C(C=C1)N=C=O.C(CCCCC)N=C=O | InChI=1S/C7H4ClNO.C7H13NO.C2HCl3O/c8-6-1-3-7(4-2-6)9-5-10;1-2-3-4-5-6-8-7-9;3-2(4,5)1-6/h1-4H;2-6H2,1H3;1H
